US03953492
A mixture of 372 mg. of N1 -acetyl-3,5 dibromo sulfanilamide, 7.5 ml. of benzene, 5 ml. of phosphorous oxychloride and 230 mg. of phosphorous pentachloride is refluxed for 2 hours. The reaction mixture is cooled and concentrated in vacuo to an oil which solidified upon trituration with hexane. The solid material is filtered and washed with hexane affording N-(4-amino-3,5-dibromophenylsulfonyl) acetimidoyl chloride, which is used without further purification in the next step.

reactant | N1 -acetyl-3,5 dibromo sulfanilamide | C(C)(=O)NS(=O)(C1=CC(=C(C(=C1)Br)N)Br)=O | C8H8Br2N2O3S
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorous pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(4-amino-3,5-dibromophenylsulfonyl) acetimidoyl chloride | NC1=C(C=C(C=C1Br)S(=O)(=O)N=C(C)Cl)Br | C8H7Br2ClN2O2S
